US05071863
A.5 2-Amino-4-fluoro-3-methylphenol
To a mixture of mercaptoethane (56 ml) and dichloromethane (56 ml) was added aluminum chloride (22.4 g, 168 mmoles) under stirring at 0° C. To this was then added 2-(N-tert-butoxycarbonylamino)-4-fluoro-3-methylanisole (12.6 g, 56 mmoles) slowly at room temperature. Stirring continued for 11/2 hours. The reaction was quenched by adding ice and water and the solution acidified with 1N HCl. The organic substance was extracted with ethyl acetate (x3). The combined extracts were washed with NaHCO3 and with brine, dried over sodium sulfate and concentrated to give a solid. Recrystallization from chloroform gave 3.15 of pure title product; m.p. 118°-121° (dec).

reactant | mercaptoethane | 56 ml | SCC | C2H6S
reactant | aluminum chloride | 168 mmoles, 22.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-(N-tert-butoxycarbonylamino)-4-fluoro-3-methylanisole | 56 mmoles, 12.6 g | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1C)F)OC | C13H18FNO3
solvent | dichloromethane | 56 ml | ClCCl | CH2Cl2
product | 2-Amino-4-fluoro-3-methylphenol | NC1=C(C=CC(=C1C)F)O | C7H8FNO
